US04211550
1-(2,4-dichlorophenylcarbamoyl)-2-ethyl-3-methoxycarbonylisourea (Compound 26)
2 g of 2-ethyl-1-methoxycarbonylisourea [prepared as described in Japanese Patent Provisional Publication No. 49-25133 (1974)] and 1.88 g of 2,4-dichlorophenyl isocyanate were dissolved in 100 ml of benzene and the mixture was refluxed for 1 hour. The benzene was then removed by evaporation under reduced pressure and the residue was recrystallized from hexane, giving 2.7 g (yield 81%) of the desired compound as white needles melting at 92°-93° C.

reactant | 2-ethyl-1-methoxycarbonylisourea | 2 g | C(C)OC(NC(=O)OC)=N | C5H10N2O3
reactant | 2,4-dichlorophenyl isocyanate | 1.88 g | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,4-dichlorophenylcarbamoyl)-2-ethyl-3-methoxycarbonylisourea | 2.7 g, yield 81% | ClC1=C(C=CC(=C1)Cl)NC(=O)NC(OCC)=NC(=O)OC | C12H13Cl2N3O4
